US04122265
A solution of 5.2 ml. of isopropylamine in 25 ml. of methanol is treated with 4 ml. of 5-N methanolic hydrochloric acid. Thereafter, there are successively added under an atmosphere of argon at 20°-25° C. 3.7 g. of 5-chloro-2-methyl-3-phenylisoindole-1-carboxylic acid (4-oxopentyl)amide and 0.4 g. of sodium cyanoborohydride and the mixture is then stirred at room temperature for 48 hours. The mixture is made acidic with concentrated hydrochloric acid while cooling with ice, stirred at room temperature for an additional 0.5 hour and then concentrated to dryness under reduced pressure. The residue is made alkaline with 0.5-N sodium hydroxide with the addition of ice and extracted with 200 ml. of diethyl ether. The extract, dried over sodium sulfate, is concentrated to dryness and the residual oily base crystallized from hot hexane. The thus obtained colorless base, which melts at 102°-105° C. is dissolved in 30 ml. of acetone and treated with excess ethereal hydrochloric acid. The separated hydrochloride is removed by filtration and washed with acetone, and there is obtained 5-chloro-2-methyl-3-phenylisoindole-1-carboxylic acid [4-(isopropylamino)pentyl]amide hydrochloride in the form of colorless crystals having a melting point of 216°-218° C. (decomposition). Recrystallization from acetone/methanol does not increase the melting point.

reactant | isopropylamine | C(C)(C)N | C3H9N
reactant | hydrochloric acid | Cl | ClH
reactant | 5-chloro-2-methyl-3-phenylisoindole-1-carboxylic acid (4-oxopentyl)amide | O=C(CCCNC(=O)C=1N(C(=C2C=C(C=CC12)Cl)C1=CC=CC=C1)C)C | C21H21ClN2O2
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
solvent | methanol | CO | CH4O
product | 5-chloro-2-methyl-3-phenylisoindole-1-carboxylic acid [4-(isopropylamino)pentyl]amide hydrochloride | Cl.C(C)(C)NC(CCCNC(=O)C=1N(C(=C2C=C(C=CC12)Cl)C1=CC=CC=C1)C)C | InChI=1S/C24H30ClN3O.ClH/c1-16(2)27-17(3)9-8-14-26-24(29)23-20-13-12-19(25)15-21(20)22(28(23)4)18-10-6-5-7-11-18;/h5-7,10-13,15-17,27H,8-9,14H2,1-4H3,(H,26,29);1H
